US08754114B2
N-Methyl-2-(4-{3-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)phenyl]imidazo[1,2-b]pyridazin-7-yl}-1H-pyrazol-1-yl)propanamide
This compound was prepared by using procedures analogous to those described for the synthesis of Example 54, Step 3 starting from 2-(4-{3-[3-({[(2,2,2-trifluoro ethyl)amino]carbonyl}amino)phenyl]imidazo[1,2-b]pyridazin-7-yl}-1H-pyrazol-1-yl)propanoic acid (prepared from the procedure for Example 54, step 2) and methylamine (2.0 N in THF). LCMS (M+H)+: m/z=487.2.

reactant | 2-(4-{3-[3-({[(2,2,2-trifluoro ethyl)amino]carbonyl}amino)phenyl]imidazo[1,2-b]pyridazin-7-yl}-1H-pyrazol-1-yl)propanoic acid | FC(CNC(=O)NC=1C=C(C=CC1)C1=CN=C2N1N=CC(=C2)C=2C=NN(C2)C(C(=O)O)C)(F)F | C21H18F3N7O3
reactant | methylamine | 2.0 N | CN | CH5N
product | N-Methyl-2-(4-{3-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)phenyl]imidazo[1,2-b]pyridazin-7-yl}-1H-pyrazol-1-yl)propanamide | CNC(C(C)N1N=CC(=C1)C1=CC=2N(N=C1)C(=CN2)C2=CC(=CC=C2)NC(=O)NCC(F)(F)F)=O | C22H21F3N8O2
